US04921524
Preparation of 2-[1-(allyloxyimino)-n-butyl]-3-hydroxy-4-(4-methoxyphenyl)-cyclohex-2-en-1-one
Triethylamine (1.2 g) was added to a solution of 2-butyryl-3-hydroxy-4-(4-methoxyphenyl)cyclohex-2-e-n-1-one (2.9 g) and O-allylhydroxylamine hydrochloride (1.2 g) in absolute ethanol (50 ml) at ambient temperature. After stirring overnight at this temperature, the ethanol was evaporated in vacuo, water was added to the residue and the aqueous solution was extracted with methylene chloride. The organic extracts were dried over anhydrous magnesium sulphate and then evaporated in vacuo. The residue was chromatographed on a silica gel column using 10% Et2O--CH2Cl2 as eluant to give the title compound (2.3 g) as a yellow oil.

reactant | Triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-butyryl-3-hydroxy-4-(4-methoxyphenyl)cyclohex-2-e-n-1-one | 2.9 g | C(CCC)(=O)C=1C(CCC(C1O)C1=CC=C(C=C1)OC)=O | C17H20O4
reactant | O-allylhydroxylamine hydrochloride | 1.2 g | Cl.C(C=C)ON
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[1-(allyloxyimino)-n-butyl]-3-hydroxy-4-(4-methoxyphenyl)-cyclohex-2-en-1-one | 2.3 g | C(C=C)ON=C(CCC)C=1C(CCC(C1O)C1=CC=C(C=C1)OC)=O | C20H25NO4
